US07241791B2
4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenyl pivalate
Prepared according to Method E from 4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenol (0.30 g, 1.0 mmol), pivaloyl chloride (0.148 mL, 1.2 mmol) and N,N-diisopropylethyl-amine (0.21 mL, 1.2 mmol) to give 0.31 g of the title compound as a white solid, mp 105° C.

reactant | 4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenol | 1.0 mmol, 0.30 g | C1(CCCC1)N1N=C(C2=CC=CC(=C12)F)C1=CC=C(C=C1)O | C18H17FN2O
reactant | pivaloyl chloride | 1.2 mmol, 0.148 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | N,N-diisopropylethyl-amine | 1.2 mmol, 0.21 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenyl pivalate | 0.31 g | C(C(C)(C)C)(=O)OC1=CC=C(C=C1)C1=NN(C2=C(C=CC=C12)F)C1CCCC1 | C23H25FN2O2
